US05258382
Preparation of 2-benzyloxycarbonylamino-2-cyanoacetic acid ethyl ester:
To a stirred mixture of 2-amino-2-cyanoacetic acid ethyl ester (19.7 g) and pyridine (12.2 g) in water (123 ml) was added portionwise benzyloxycarbonyl chloride (27.9 g) under ice cooling. The resulting mixture was stirred under ice cooling for 1 hour. Precipitated crystals were collected, washed thoroughly with water, and recrystallized from ethanol to give the title compound (24.2 g, 60.2%) as colorless crystals, mp 111°-112° C.

reactant | 2-amino-2-cyanoacetic acid ethyl ester | 19.7 g | C(C)OC(C(C#N)N)=O | C5H8N2O2
reactant | pyridine | 12.2 g | N1=CC=CC=C1 | C5H5N
reactant | benzyloxycarbonyl chloride | 27.9 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
solvent | water | 123 ml | O | H2O
product | 2-benzyloxycarbonylamino-2-cyanoacetic acid ethyl ester | 24.2 g, 60.2% | C(C)OC(C(C#N)NC(=O)OCC1=CC=CC=C1)=O | C13H14N2O4
